Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
ICD shock
 
Major Surgical or Invasive Procedure:
Angiography
VT Ablation

 
History of Present Illness:
Ms. ___ is a ___ woman with medical history notable for
HFrEF, CAD c/b MI ___ PCI x3, MR ___ MVR, HTN, PVD, ___ recent
hospitalization for unstable VT ___ ICD placement (___)
who presented to OSH after ICD shock transferred for ongoing
management. 

Of note, patient was admitted at ___ under the Cardiology
service (___) in the setting of unstable monomorphic VT 
-
per discharge summary thought to be "triggered by 
sympathomimetic
inhalers given earlier the day of admission for rx of possible
COPD as below. Suspect underlying myocardial scar iso h/o
inferior MI as below. No evidence of active ischemia and cardiac
cath was deferred. EP was consulted for ablation and ICD
placement. Patient underwent 
ICD placement ___ by EP." 
 
Patient reports feeling well at home after discharge, but on ___ was shocked by ICD x1 after which she did not present to
care ("small shock" per patient), then was shocked by ICD x1
again on ___ after which she immediately called EMS.
She recalls that both times she was lying in bed at rest, no
trauma or fall. No clear prodrome before either event. 

She presented to ___ on ___. EKG at the time was
sinus with PVCs. CXR negative, UA negative, WBC 11.6.
Interrogation of ICD showed "Ventricular tachycardia - 2 AICD
shocks and antitachycardia pacing." Initial lab work showed
elevated troponin to 0.03, BNP 2385. She was admitted to ICU and
started on amiodarone gtt ___. No VT or further shocks on
amiodarone. She was transferred to ___ for ongoing management,
as outpatient cardiologist is Dr. ___.  
 
Vitals on transfer:  110-120/59, hr 71 sinus, afebrile, o2 sat
96-99% r/a/2l; 91 % 2l with exertion; drops to 88 on r/a with
exertion oxygen PRN with exertion

Labs on transfer:
Trop 0.03 --> 0.04 --> 0.04
Wbc 10.5, hb10.2, hct 31.5, plt 178,
K 4.3, na 139, bun 18, creat 0.74
INR 2.64.
MG 1.8- not supplemented. 

On arrival to floor at ___, she reports history as above.
Overall is feeling well currently. No f/c, CP, SOB, DOE N/V,
abdominal pain, dysuria. Reports she had diarrhea last week that
resolved. She reports having "allergies" every year around this
time and has been having a dry cough related to that. No sputum
per patient. Has a bruise on her back/hip from being shocked 
last
week. 

REVIEW OF SYSTEMS:  
Positive per HPI, otherwise 10pt ROS obtained and negative 

 
Past Medical History:
CHF (EF 40-45%) 
CAD ___ IMI with BMS to LCx ___
MVR ___ St. ___ replacement ___ mechanical
Hypertension  
Hypercholesterolemia   
Bladder Tumor ___ mass resection 
___ ICD implant ___.
GERD
Arthritis
Osteoporosis
COPD
Gout 
carotid stenosis status post right CEA

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death, though patient is not sure of her FH in
general. Mother had breast cancer. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
VS: 98.2PO, 128 / 79, 75, 20, 92 Ra 
GENERAL: Well developed, well nourished woman in NAD. Oriented
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. OP clear. 
NECK: Supple. JVP above clavicle at 90 degrees. 
CARDIAC: Regular rate and rhythm. mechanical valve sounds. No
other murmurs, rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use.
Bilateral wheezing throughout with faint scattered crackles.   
ABDOMEN: Soft, non-tender, non-distended, +BS. Reducible midline
hernia. 
EXTREMITIES: Warm, well perfused. trace ___. 
SKIN: Dark purple ecchymosis on L hip.   

DISCHARGE PHYSICAL EXAMINATION:  
===============================
GENERAL: Well developed, well nourished woman in NAD. Oriented
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. OP clear. 
NECK: Supple. No JVD.
CARDIAC: Regular rate and rhythm. mechanical valve sounds. No
other murmurs, rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use.
Bilateral wheezing throughout with faint scattered crackles.   
ABDOMEN: Soft, non-tender, non-distended, +BS. Reducible midline
hernia. 
EXTREMITIES: Warm, well perfused. No pitting ___ edema.  
SKIN: Dark purple ecchymosis on L hip resolving
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:56PM BLOOD WBC-12.8* RBC-3.64* Hgb-10.1* Hct-32.7* 
MCV-90 MCH-27.7 MCHC-30.9* RDW-15.9* RDWSD-50.4* Plt ___
___ 07:56PM BLOOD Neuts-72.9* Lymphs-12.7* Monos-9.6 
Eos-2.7 Baso-0.3 Im ___ AbsNeut-9.30* AbsLymp-1.62 
AbsMono-1.23* AbsEos-0.34 AbsBaso-0.04
___ 07:56PM BLOOD ___ PTT-33.6 ___
___ 07:56PM BLOOD Glucose-153* UreaN-17 Creat-0.8 Na-139 
K-3.8 Cl-98 HCO3-29 AnGap-12
___ 07:56PM BLOOD ALT-14 AST-16 AlkPhos-87 TotBili-0.7
___ 07:56PM BLOOD CK-MB-1 cTropnT-<0.01 proBNP-1199*
___ 07:56PM BLOOD Calcium-9.5 Phos-4.2 Mg-1.7

PERTINENT/DISCHARGE LABS:
=========================
___ 07:45AM BLOOD WBC-8.8 RBC-3.05* Hgb-8.6* Hct-28.3* 
MCV-93 MCH-28.2 MCHC-30.4* RDW-17.3* RDWSD-56.1* Plt ___
___ 07:45AM BLOOD ___ PTT-143.2* ___
___ 07:45AM BLOOD Glucose-89 UreaN-15 Creat-0.9 Na-140 
K-3.7 Cl-100 HCO3-25 AnGap-15
___ 07:45AM BLOOD Calcium-8.6 Phos-4.2 Mg-2.1
___ 06:44AM BLOOD TSH-3.2
___ 11:15AM URINE Color-Straw Appear-Clear Sp ___
___ 11:15AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM*
___ 11:15AM URINE RBC-1 WBC-0 Bacteri-FEW* Yeast-NONE Epi-2
___ 11:15AM URINE CastHy-4*
___ 11:15AM URINE Mucous-RARE*

MICROBIOLOGY:
=============
___ 11:15 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 12:30 pm BLOOD CULTURE      1 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
___ 12:45 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

IMAGING/STUDIES:
================
CXR ___:  
Bibasilar atelectasis with no evidence of focal consolidations 
concerning for pneumonia. 

 
Brief Hospital Course:
___ woman with a past medical history of HFrEF (EF 40%), CAD, 
MR ___ MVR, unstable VT ___ ICD placement (___) who 
presented to OSH after ICD shock. She underwent VT ablation on 
___ and was initiated on Amiodarone loading.

ACUTE:
======
#ICD shock
#Unstable VT
Patient is ___ recent ICD placement on ___ by EP in setting 
of presentation for unstable monomorphic VT believed to be 
triggered by sympathomimetic inhalers given for COPD, with 
suspicion for underlying myocardial scar iso prior inferior MI. 
Now ___ VT ablation ___. Following ablation patient had slow 
VT episode ___ for which ATP threshold was lowered and 
Amiodarone was IV loaded, completed and transitioned to oral 
loading.

#Systolic congestive heart failure:
She currently appears euvolemic. Her home Lasix 40mg BID, 
Entresto, and Metoprolol were continued during this admission.

# Inferobasilar LV aneurysm with hypokinesis
# CAD ___ PCI 
Seen on ___ ___. Trops mildly elevated at OSH but stable. 
EKG without ischemic changes. Would required a cMRI as an 
outpatient to ensure no evidence of pseudoaneurysm. Her home 
ASA, Atorvastatin, and Metoprolol were continued during this 
admission. 

# Mild leukocytosis: She had a mild (WBC 12.8) leukocytosis on 
admission with cough and rhonchi on exam which may reflect 
resolution of recent COPD exacerbation ___ azithromycin and 
prednisone (___). She additionally had erythema on 
her right forearm that improved during this admission. 
Throughout she remained afebrile and hemodynamically stable. 
UA/UCx and CXR were unimpressive. And the leukocytosis resolved 
without intervention.

# COPD 
Patient with concern for COPD exacerbation on recent 
hospitalization, ___ x5 day course of azithromycin and 
prednisone with improvement in her symptoms. She remained free 
of increased sputum or SOB during this admission. She did have a 
recent dry cough and was mildly wheezy on exam but remained 
comfortable on RA without concern for a COPD exacerbation. Her 
home Spiriva and Fluticasone-Salmeterol were continued during 
this admission. She refused Albuterol given concerns for its 
role in inciting her unstable VT; Levalbuterol was provided but 
unused. Her O2 sats remained >90% while at rest, however, she 
would commonly desat to the mid 80's with ambulation prompting 
recommendation of portable O2 in outpatient with exertion. 

# Mitral regurgitation ___ MVR on Coumadin:
Trial MR on ___ ___. She is has been therapeutic on home 
Coumadin regiment (goal 2.5-3.5). Continue monitoring with next 
INR ___, instructions per Dr. ___. 

# CODE STATUS: Full 
# CONTACT: ___ (___)

TRANSITIONAL ISSUES:
====================
- Follow up with Dr. ___ Clinic, and Dr. ___.
- Currently on Amiodarone oral loading, will take 400mg TID 
through ___, then switch to 400mg daily for follow-up with Dr. 
___.
- Outpatient PFTs should be considered to better characterize 
COPD.
- Added home O2 for use when exerting herself, not necessary at 
rest.
- Follow up with a pulmonologist is recommended. 
- Refer for cMRI as an outpatient to ensure no evidence of 
pseudoaneurysm.
- New Medications: Amiodarone, Miconazole Powder 2%, HOME O2.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Warfarin 5 mg PO 4X/WEEK (___) 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral daily 
6. Furosemide 40 mg PO BID 
7. Potassium Chloride 10 mEq PO BID 
8. Warfarin 2.5 mg PO 3X/WEEK (___) 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Benzonatate 100 mg PO TID:PRN cough 
11. GuaiFENesin ___ mL PO Q6H:PRN sore throat 
12. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
13. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1.  Amiodarone 400 mg PO TID Duration: 11 Doses 
RX *amiodarone 400 mg 1 tablet(s) by mouth three times a day 
Disp #*11 Tablet Refills:*0 
2.  Amiodarone 400 mg PO DAILY Duration: 7 Days 
RX *amiodarone 400 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
3.  Miconazole Powder 2% 1 Appl TP BID:PRN rash 
RX *miconazole nitrate [Antifungal Cream] 2 % Apply to skin 
three times a day Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Benzonatate 100 mg PO TID:PRN cough  
7.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral daily  
8.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
9.  Furosemide 40 mg PO BID  
10.  GuaiFENesin ___ mL PO Q6H:PRN sore throat  
11.  Metoprolol Succinate XL 50 mg PO DAILY  
12.  Potassium Chloride 10 mEq PO BID 
Hold for K > 5  
13.  Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID  
14.  Tiotropium Bromide 1 CAP IH DAILY  
15.  Warfarin 2.5 mg PO 3X/WEEK (___)  
16.  Warfarin 5 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Ventricular Tachycardia
COPD

SECONDARY:
Mitral regurgitation ___ MVR on Coumadin:

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

     You were admitted to ___ 
due to recurrent shocks by your cardiac device. Your device was 
investigated and found to be working appropriately. The device 
was attempting to prevent a potentially fatal heart rhythm known 
as ventricular tachycardia (VT). You underwent a procedure 
called a VT ablation that was meant to reduce occurrence of this 
heart rhythm. You were also re-started on a medication also 
meant to prevent VTs called Amiodarone. 

     Please take Amiodarone as directed and follow up with Dr. 
___ your primary care provider at the appointments below.  
You were started on home oxygen. We recommend that you use this 
oxygen with any activity; your goal oxygen saturation is >90%. 
Please seek care if you continue to experience shocks from your 
cardiac device, lightheadedness, uncomfortable or rapid 
heartbeats, feeling as if you might loose consciousness, or 
chest pain. 

     Thank you for allowing us to be a part of your care. 

___ Cardiology Team 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___